US05631257
1-(2-Hydroxyethyl)-1-methyl-4-(benzoxazol-2-yl)piperazinium iodide
A 435 mg portion of 2-(4-methyl-1-piperazinyl)-benzoxazole was dissolved in 3 ml of DMF. Under cooling with ice, 0.24 ml of 2-iodoethyl alcohol was added to the thus prepared solution, and the reaction was carried out for 1 hour at the same temperature and then for 17 hours at room temperature, followed by further addition of 0.48 ml 2 -iodoethyl alcohol and subsequent 21 hours of reaction at 50° C. The reaction mixture was concentrated under a reduced pressure, and 5 ml of acetone was added to the resulting residue. The precipitate thus formed was collected by filtration, washed with acetone and then dried to obtain 583 mg of the title compound.

reactant | 2-(4-methyl-1-piperazinyl)-benzoxazole | CN1CCN(CC1)C=1OC2=C(N1)C=CC=C2 | C12H15N3O
reactant | 2-iodoethyl alcohol | 0.24 ml | ICCO | C2H5IO
reactant | 2 -iodoethyl alcohol | 0.48 ml | ICCO | C2H5IO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 1-(2-Hydroxyethyl)-1-methyl-4-(benzoxazol-2-yl)piperazinium iodide | 583 mg | [I-].OCC[N+]1(CCN(CC1)C=1OC2=C(N1)C=CC=C2)C | InChI=1S/C14H20N3O2.HI/c1-17(10-11-18)8-6-16(7-9-17)14-15-12-4-2-3-5-13(12)19-14;/h2-5,18H,6-11H2,1H3;1H/q+1;/p-1
